### PR TITLE
feat(QuantumInfo): Bargmann invariant and geometric phase

### PR DESCRIPTION
**Pull request by wock9000**
## Summary

Adds `QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean` (88 lines, zero sorry) with the 3-vertex Bargmann invariant and Pancharatnam-Berry geometric phase for `Ket d`.

### Definitions
- `bargmannInvariant3`: cyclic product ⟨ψ₁|ψ₂⟩·⟨ψ₂|ψ₃⟩·⟨ψ₃|ψ₁⟩
- `bargmannPhase3`: geometric phase `arg(Δ₃)`

### Results
- `bargmannInvariant3_degenerate`: identical states → Δ₃ = 1
- `bargmannPhase3_degenerate`: identical states → phase = 0
- `dot_swap_conj`: ⟨ψ₂|ψ₁⟩ = conj(⟨ψ₁|ψ₂⟩)
- `bargmannInvariant3_reverse`: reversing conjugates Δ₃
- `bargmannPhase3_reverse`: reversing negates the phase (mod 2π)

Builds on `Braket.lean` and its `Ket`/`dot` infrastructure. All proofs use only standard axioms.

This is the first PR of a planned series covering Pancharatnam's theorem (solid angle), polygon fan triangulation, convergence analysis, and N-level generalization. Discussed in #Physlib on Zulip.

## Notes
- Placement at `QuantumInfo/Finite/GeometricPhase/` per discussion with @jstoobysmith — happy to relocate if the file system reorganization proceeds first
- Follows review guidelines: under 100 lines, single concept, `lemma` not `theorem`

🤖 Generated with [Claude Code](https://claude.com/claude-code) + [Aristotle](https://aristotle.harmonic.fun)

### CODE REVIEW

File: QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean [hunk 1]
```diff
@@ -0,0 +1,88 @@
+/-
+Copyright (c) 2026 Xylem Group. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Claude (Anthropic), Aristotle (Harmonic)
```
Comment (jstoobysmith) [inline QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean]: Can we put real people as the authors. The authors are really "who should I contact if I want to know more about this file".

File: QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean [hunk 2]
```diff
@@ -0,0 +1,88 @@
...
+ * `bargmannInvariant3_degenerate`: identical states give `Δ₃ = 1`
+ * `bargmannPhase3_degenerate`: identical states give phase `= 0`
+ * `bargmannInvariant3_reverse`: reversing conjugates `Δ₃`
+ * `bargmannPhase3_reverse`: reversing negates the phase (mod 2π)
+
+## References
+ * V. Bargmann, "Note on Wigner's theorem on symmetry operations",
+   J. Math. Phys. 5, 862 (1964)
+ * S. Pancharatnam, "Generalized theory of interference, and its
+   applications", Proc. Indian Acad. Sci. A 44, 247 (1956)
```
Comment (jstoobysmith) [inline QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean]: If these are AI generated, can we make sure that they are correct.

File: QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean [hunk 3]
```diff
@@ -0,0 +1,88 @@
...
+open Braket Complex
+
+variable {d : Type*} [Fintype d] [DecidableEq d]
+
+noncomputable section
+
+/-- The 3-vertex Bargmann invariant: `⟨ψ₁|ψ₂⟩ · ⟨ψ₂|ψ₃⟩ · ⟨ψ₃|ψ₁⟩`.
+    This is a gauge-invariant complex number whose argument is the
+    geometric phase of the geodesic triangle. -/
+def bargmannInvariant3 (ψ₁ ψ₂ ψ₃ : Ket d) : ℂ :=
```
Comment (jstoobysmith) [inline QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean]: maybe it is best to write `3` out explicitly in the names.

File: QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean [hunk 4]
```diff
@@ -0,0 +1,88 @@
...
+
+/-- The geometric phase of three identical states is 0. -/
+lemma bargmannPhase3_degenerate (ψ : Ket d) :
+    bargmannPhase3 ψ ψ ψ = 0 := by
+  unfold bargmannPhase3; simp [Complex.arg_one]
+
+/-! ## Conjugacy -/
+
+/-- Swapping the arguments conjugates the overlap: `⟨ψ₂|ψ₁⟩ = conj(⟨ψ₁|ψ₂⟩)`. -/
+lemma dot_swap_conj (ψ₁ ψ₂ : Ket d) :
```
Comment (jstoobysmith) [inline QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean]: Hopefully this already exists, if it doesn't it should go in the `Braket` file.

**Comment by wock9000** [comment]
Thanks for the review! All four points addressed in the latest push:

1. **Authors**: Updated to Anand Nambakam (real, contactable).

2. **References**: Verified both against the originals:
   - Bargmann 1964: "Note on Wigner's theorem on symmetry operations", J. Math. Phys. **5**, 862–868. This is where the cyclic product of inner products (Bargmann invariant) is introduced.
   - Pancharatnam 1956: "Generalized theory of interference, and its applications", Proc. Indian Acad. Sci. A **44**, 247–262. The original geometric phase paper, predating Berry by 28 years.

3. **Naming**: Renamed to `bargmannInvariantThree`, `bargmannPhaseThree`, etc. throughout.

4. **`dot_swap_conj`**: Checked — it doesn't exist in `Braket.lean` currently. Added a TODO comment noting it should be moved there. Happy to make that a separate PR to `Braket.lean` if you'd prefer.

File: QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean (hunk 4 above)
Comment (wock9000) [reply QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean]: verified — it doesn't exist in `Braket.lean` currently. Added a `TODO` comment noting it should be moved there. Happy to make that a separate PR to `Braket.lean` if that's preferable

File: QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean (hunk 3 above)
Comment (wock9000) [reply QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean]: renamed to `bargmannInvariantThree`, `bargmannPhaseThree`, etc. throughout

File: QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean (hunk 2 above)
Comment (wock9000) [reply QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean]: Verified both against the originals:
- Bargmann 1964: "Note on Wigner's theorem on symmetry operations", J. Math. Phys. 5, 862–868. This is where the cyclic product of inner products (Bargmann invariant) is introduced
- Pancharatnam 1956: "Generalized theory of interference, and its applications", Proc. Indian Acad. Sci. A 44, 247–262. The original geometric phase paper, predating Berry by 28 years

File: QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean (hunk 1 above)
Comment (wock9000) [reply QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean]: updated

File: QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean (hunk 4 above)
Comment (jstoobysmith) [reply QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean]: Would you be able to move it in this pr

Comment (wock9000) [reply QuantumInfo/Finite/GeometricPhase/BargmannInvariant.lean]: Ok, moved `dot_swap_conj` to `Braket.lean` as `Braket.dot_swap_conj`. 
`BargmannInvariant.lean` uses the qualified name now

File: QuantumInfo/Finite/Braket.lean [hunk 5]
```diff
@@ -226,6 +226,13 @@ theorem Braket.dot_self_eq_one (ψ : Ket d) :〈ψ‖ψ〉= 1 := by
     rw [Complex.normSq_eq_conj_mul_self]
   simpa [dot, Bra.eq_conj, h₁] using congr(Complex.ofReal $ψ.normalized)
 
+/-- Swapping the arguments conjugates the bra-ket product:
+    `⟨ψ₂|ψ₁⟩ = conj(⟨ψ₁|ψ₂⟩)`. -/
+theorem Braket.dot_swap_conj (ψ₁ ψ₂ : Ket d) :
```
Comment (jstoobysmith) [inline QuantumInfo/Finite/Braket.lean]: Can we make this a lemma not a theorem.

Comment (wock9000) [reply QuantumInfo/Finite/Braket.lean]: Yes, apologize for the oversight, indeed it is a lemma. Sorted

**Review by jstoobysmith — APPROVED** [review]
Approved - this looks good now. Will merge once it passes the linters. Congrats on your first PR

**Comment by wock9000** [comment]
Appreciate the kind words Joseph, cheers
